US05656639
A) Ethyl 5-cyano-5-(3,4-dichlorophenyl)pentanoate
5.9 g of sodium hydride as a 55% dispersion in oil are suspended in 50 ml of THF; the suspension is cooled in an ice bath and 25 g of 3,4-dichlorophenylacetonitrile in 25 ml of THF are added dropwise; the mixture is cooled again in an ice bath and a solution of 26.21 g of ethyl 4-bromobutanoate in 25 ml of THF is added dropwise. After one night at RT, the mixture is evaporated to dryness and the residue is then taken up with 2N hydrochloric acid solution and extracted with ether. The extract is washed with 2N hydrochloric acid solution and then with saturated sodium chloride solution. The organic phase is dried over MgSO4 and then concentrated under vacuum and the residue is chromatographed on silica using pure toluene up to a toluene/AcOEt mixture (100/3; v/v) as the eluent to give 17 g of the expected product.

reactant | sodium hydride | 5.9 g | [H-].[Na+]
reactant | 3,4-dichlorophenylacetonitrile | 25 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | ethyl 4-bromobutanoate | 26.21 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Ethyl 5-cyano-5-(3,4-dichlorophenyl)pentanoate | 17 g | C(#N)C(CCCC(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C14H15Cl2NO2
